US07960375B2
8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid cyclopropyl amide
2.07 g (4.6 mmoles) 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid phenyl ester are boiled in 10 ml of cyclopropylamine for 10 hours. The separated crystals are filtered off, and the crude product is re-crystallized from ethanol. Thus 1.12 g (59%) of the desired compound melting at 221-223° C. is obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid phenyl ester | 4.6 mmoles, 2.07 g | C1(=CC=CC=C1)OC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C24H18ClN3O4
reactant | cyclopropylamine | 10 ml | C1(CC1)N | C3H7N
product | 8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid cyclopropyl amide | 1.12 g, 59% | C1(CC1)NC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C21H19ClN4O3
